US05780498
A solution of methyl 1,2,3,4-tetrahydro-3-isoquinolinecarboxylate hydrochloride (2.0 g, 9 mmol) and 3,5-dimethylbenzoic acid (1.6 g, 10 mmol) in DMF (15 ml) is treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.9 ml, 10 mmol). The reaction mixture is slowly warmed to r.t. and stirring continued for 2 hours. The homogeneous mixture is diluted with ethyl acetate (500 ml) and washed with three portions of water (200 ml). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material is chromatographed on silica with ethyl acetate/hexane 1:3 to give methyl N-(3,5-dimethylbenzoyl)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylate as a colorless oil. This material is hydrolized with 1M sodium hydroxide in THF to give N-(3,5-dimethylbenzoyl)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid as a white solid.

reactant | methyl 1,2,3,4-tetrahydro-3-isoquinolinecarboxylate hydrochloride | 9 mmol, 2.0 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)OC
reactant | 3,5-dimethylbenzoic acid | 10 mmol, 1.6 g | CC=1C=C(C(=O)O)C=C(C1)C | C9H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 10 mmol, 1.9 ml | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | methyl N-(3,5-dimethylbenzoyl)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylate | CC=1C=C(C(=O)N2CC3=CC=CC=C3CC2C(=O)OC)C=C(C1)C | C20H21NO3
